US05565494
Preparation of N-[[(4-chlorophenyl)amino]carbonyl]-3-(dimethylamino)benzenesulfonamide
The 3-(dimethylamino)benzenesulfonamide was dissolved in acetone (9.1 ml) to which was added 9.3 ml of 1N sodium hydroxide. To this mixture was added 4-chlorophenylisocyanate (1.43 g, 9.3 mmoles) dissolved in 9.1 ml of acetone. This mixture was stirred for 45 minutes at room temperature and then filtered. The filtrate was acidified using 1N hydrochloric acid (9.3 ml) and stirred for 2 hours, resulting in a precipitate. The solid was collected, washed thrice with water, and recrystallized using heated toluene (150 ml) and ethyl acetate (25 ml), followed by filtration and cooling.

reactant | 3-(dimethylamino)benzenesulfonamide | CN(C=1C=C(C=CC1)S(=O)(=O)N)C | C8H12N2O2S
reactant | sodium hydroxide | 1N, 9.3 ml | [OH-].[Na+]
reactant | 4-chlorophenylisocyanate | 9.3 mmoles, 1.43 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | acetone | 9.1 ml | CC(=O)C | C3H6O
solvent | acetone | 9.1 ml | CC(=O)C | C3H6O
product | N-[[(4-chlorophenyl)amino]carbonyl]-3-(dimethylamino)benzenesulfonamide | ClC1=CC=C(C=C1)NC(=O)NS(=O)(=O)C1=CC(=CC=C1)N(C)C | C15H16ClN3O3S
